US07608563B2
0.18 mL (0.36 mmol) of 2 mol/L aqueous sodium hydroxide solution was added to an ethanol (2 mL) solution containing 100 mg (0.361 mmol) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol, and the resulting mixture was stirred at 50° C. for 4 hours. The reaction mixture was concentrated to obtain 108 mg (0.361 mmol, Yield: 100%) of sodium 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinolate (Compound No. 3805).

reactant | sodium hydroxide | 0.36 mmol, 2 mol/L, 0.18 mL | [OH-].[Na+]
reactant | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol | 0.361 mmol, 100 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C1CC1)O | C14H13ClN2O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | sodium 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinolate | 0.361 mmol, 108 mg, Yield: 100% | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C1CC1)[O-].[Na+] | InChI=1S/C14H13ClN2O2.Na/c1-8-3-2-4-10(9-5-6-9)13(8)19-14-11(18)7-12(15)16-17-14;/h2-4,7,9H,5-6H2,1H3,(H,16,18);/q;+1/p-1
